US05753664
2-[3-(4-Chlorobenzoyl)benzyl]thio-3-methyl-4(3H)-quinazolinone
To a solution of 2-mercapto-3-methyl-4(3H)-quinazolinone (1.0 g) and sodium hydroxide (250 mg) in 50% ethanol (15 ml)-DMF (15 ml) was added 3-(4-chloro-benzoyl)benzyl bromide (1.88 g) and the mixture was stirred at room temperature for 1 hour. This reaction mixtrue was poured in water and the resulting crystals were collected by filtration, rinsed with water and methanol, and recrystallized from methanol to provide the title compound as colorless solid (2.22 g). 1H-NMR (CDCl3) 8: 3.59(3H,s), 4.59(2H,s), 7.34-7.52(5H,m), 7.61-7.80(5H,m), 7.96(1H,d,J=2.0Hz), 8.22(1H,dd,J=8.0,1.4Hz).

reactant | 2-mercapto-3-methyl-4(3H)-quinazolinone | 1.0 g | SC1=NC2=CC=CC=C2C(N1C)=O | C9H8N2OS
reactant | sodium hydroxide | 250 mg | [OH-].[Na+]
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | 3-(4-chloro-benzoyl)benzyl bromide | 1.88 g | ClC1=CC=C(C(=O)C=2C=C(CBr)C=CC2)C=C1 | C14H10BrClO
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-[3-(4-Chlorobenzoyl)benzyl]thio-3-methyl-4(3H)-quinazolinone | 2.22 g | ClC1=CC=C(C(=O)C=2C=C(CSC3=NC4=CC=CC=C4C(N3C)=O)C=CC2)C=C1 | C23H17ClN2O2S
